US04390618
271 g (0.66 mol) of 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid 4-nitrophenyl ester and 160 g (0.66 mol) of 3-n-dodecyloxypropylamine were added to 750 ml of tetrahydrofuran, and the mixture was stirred for 3 hours. 2 liters of water were added to the reacting solution, and extraction was carried out with 1 liter of ethyl acetate. After removal of ethyl acetate by distillation, the residue was dissolved in 1 liter of methanol, and cooled. The precipitated crystals were filtered off and dried to obtain 205 g (66% yield) of 1 -hydroxy-4-ethoxy-carbonylmethyloxy-N-(3-n-dodecyloxypropyl)-2-naphthamide. Melting point: 66°-67.5° C.

reactant | 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid 4-nitrophenyl ester | 0.66 mol, 271 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=C(C2=CC=CC=C2C(=C1)OCC(=O)OCC)O | C21H17NO8
reactant | 3-n-dodecyloxypropylamine | 0.66 mol, 160 g | C(CCCCCCCCCCC)OCCCN | C15H33NO
reactant | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
reactant | water | 2 liters | O | H2O
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 1 -hydroxy-4-ethoxy-carbonylmethyloxy-N-(3-n-dodecyloxypropyl)-2-naphthamide | 205 g, 66% yield | OC1=C(C(=C(C2=CC=CC=C12)OCC)OC=C=O)C(=O)NCCCOCCCCCCCCCCCC | C30H43NO6
